US05962479
4-(1-Ethyl-propoxy)-2-(4-isopropoxy-2.6-dimethyl-phenoxy)-3,6-dimethyl-pyridine
To a solution of 4-[4-(1-ethyl-propoxy)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenol (58 mg, 0.176 mmol) in 3 ml of dry THF was added triphenylphosphine (70 mg, 0.264 mmol) and isopropanol (60 mg, 0.22 mmol). The resulting mixture was stirred at room temperature for 5 min, diethyl azodicarboxylate (46 mg, 0.264 mmol) was added. The mixture was stirred at room temperature overnight. An additional 20 mg of diethyl azodicarboxylate was added and the mixture was stirred for an additional 4 hours. The mixture was quenched with water and extracted with methylene chloride. The organic layer was dried and concentrated to give an oil. The oil residue was purified through silica gel column chromatography using 1:1 hexane:chloroform to 1:2 hexane: chloroform as eluent to give 38 mg (58%) of the title compound as a colorless oil. 1H NMR (CDCl3) δ6.60 (s, 2H), 6.28 (s, 1H), 4.50 (m, 1H), 4.18 (m, 1H), 2.20 (s, 3H), 2.19 (s, 3H), 2.079s,6H), 1.71 (m, 4H), 1.34 (d, 6H), 0.98 (t, 6H) ppm.

reactant | 4-[4-(1-ethyl-propoxy)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenol | 0.176 mmol, 58 mg | C(C)C(CC)OC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)O)C)C | C20H27NO3
reactant | triphenylphosphine | 0.264 mmol, 70 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isopropanol | 0.22 mmol, 60 mg | C(C)(C)O | C3H8O
reactant | diethyl azodicarboxylate | 0.264 mmol, 46 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diethyl azodicarboxylate | 20 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-(1-Ethyl-propoxy)-2-(4-isopropoxy-2.6-dimethyl-phenoxy)-3,6-dimethyl-pyridine | 38 mg, 58% | C(C)C(CC)OC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)OC(C)C)C)C | C23H33NO3
